US07067517B2
Ethyl-phenyl-carbamic acid 4-(4-trifluoromethyl-phenoxy)-phenyl ester
The title compound was prepared from 4-(4-trifluoromethyl-phenoxy)-phenol and N-ethyl-N-phenylcarbamoyl chloride. The crude product was subjected to flash chromatography (ethyl

reactant | 4-(4-trifluoromethyl-phenoxy)-phenol | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | N-ethyl-N-phenylcarbamoyl chloride | C(C)N(C(=O)Cl)C1=CC=CC=C1 | C9H10ClNO
product | Ethyl-phenyl-carbamic acid 4-(4-trifluoromethyl-phenoxy)-phenyl ester | FC(C1=CC=C(OC2=CC=C(C=C2)OC(N(C2=CC=CC=C2)CC)=O)C=C1)(F)F | C22H18F3NO3
